US05391734
3 g of tris-(2-hydroxypropyl)amine and 1 g of SnO2 doped with sulfuric acid were heated in a manner similar to that described in Example 3 for a period of 1 h at 250° C. There were obtained, in addition to 50 wt % of educt, 30 wt % of N-(2-hydroxypropyl)-2,6-dimethylmorpholine.

reactant | tris-(2-hydroxypropyl)amine | 3 g | OC(CN(CC(C)O)CC(C)O)C | C9H21NO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | N-(2-hydroxypropyl)-2,6-dimethylmorpholine | OC(CN1CC(OC(C1)C)C)C | C9H19NO2
